US08648066B2
A mixture of N-[5-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1,3-thiazol-2-yl]acetamide hydrochloride (220 mg, 0.68 mmol), 4-chloro-5-[(4-fluorophenyl)methyl]-6-methylpyrimidine (reagent preparation 5) (152 mg, 0.64 mmol) and diisopropylethylamine (500 mg, 3.87 mmol) in N-methylpyrrolidine (4 mL) was heated in a microwave reactor at 120° C. for 3 h. The reaction mixture was concentrated, diluted with water (10 mL), the precipitate was filtered off, washed with water (2×5 mL) and methanol (5 mL), and dried to provide N-[5-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidine-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1,3-thiazol-2-yl]acetamide (147 mg, 47% yield) as a off-white solid. MS (EI) C26H24FN5O2S: 490 (MH+).

reactant | N-[5-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1,3-thiazol-2-yl]acetamide hydrochloride | 0.68 mmol, 220 mg | Cl.O1CCNCC2=C1C=CC(=C2)C2=CN=C(S2)NC(C)=O
reactant | 4-chloro-5-[(4-fluorophenyl)methyl]-6-methylpyrimidine | 0.64 mmol, 152 mg | ClC1=NC=NC(=C1CC1=CC=C(C=C1)F)C | C12H10ClFN2
reactant | diisopropylethylamine | 3.87 mmol, 500 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methylpyrrolidine | 4 mL | CN1CCCC1 | C5H11N
product | N-[5-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidine-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1,3-thiazol-2-yl]acetamide | 147 mg, 47% yield | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C2=CN=C(S2)NC(C)=O | C26H24FN5O2S
